US07589103B2
9-(8-Aza-bicyclo[3.2.1]oct-3-ylidene)-6-hydroxy-9H-xanthene-3-carboxylic acid diethylamide, 9i
A 1.0 M solution of boron tribromide in dichloromethane (2.14 mL, 2.14 mmol) was added to a solution of the trifluoroacetic acid salt of 9-(8-aza-bicyclo[3.2.1]oct-3-ylidene)-6-methoxy-9H-xanthene-3-carboxylic acid diethylamide (0.285 g, 0.535 mmol) in dichloromethane (10 mL) at 0° C. The resultant mixture was stirred at room temperature for 2 h. The mixture was cooled to 0° C., and treated with 10% aqueous ammonium hydroxide (˜20 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine and dried over sodium sulfate. The solvent was evaporated in vacuo, and the residues was dissolved in DMSO and applied to reverse phase C1-8 column for purification via HPLC, using a gradient of acetonitrile (10% to 90%) in water with trifluoroacetic acid (0.1%) as the eluant. Fractions containing the title compound were combined and further purified via reverse phase HPLC to give the purified title compound (0.035 g). MS: m/z 405.1 (MH+). 1H NMR (DMSO-d6): δ 1.0-1.2 (br m, 6 H), 1.29 (d, 12H, J=8.1 Hz), 1.7-1.8 (br m, 2 H), 2.8-3.0 (br m, 4H), 3.1-3.5 (br m, 4H), 3.99 (br s, 2H), 6.63-6.65 (m, 2H), 7.13 (d, 1 H, J=7.9 Hz), 7.18-7.21 (m, 3 H), 7.41 (d, 1 H, J=7.9 Hz), 8.70 (br s, 1 H), 9.01 br d, 1 H) and 9.93 (br s 1 H).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 9-(8-aza-bicyclo[3.2.1]oct-3-ylidene)-6-methoxy-9H-xanthene-3-carboxylic acid diethylamide | 0.535 mmol, 0.285 g | C(C)N(C(=O)C=1C=CC=2C(C3=CC=C(C=C3OC2C1)OC)=C1CC2CCC(C1)N2)CC | C26H30N2O3
reactant | ammonium hydroxide | ˜20 mL | [OH-].[NH4+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.14 mmol, 2.14 mL | ClCCl | CH2Cl2
product | 9-(8-Aza-bicyclo[3.2.1]oct-3-ylidene)-6-hydroxy-9H-xanthene-3-carboxylic acid diethylamide | C(C)N(C(=O)C=1C=CC=2C(C3=CC=C(C=C3OC2C1)O)=C1CC2CCC(C1)N2)CC | C25H28N2O3
